US05403953
Stage A: 6-Methyl-2-hydroxymethylphenol
4.9 mmol of lithium aluminum hydride are placed, under a nitrogen atmosphere, in 50 ml of ether. 3.3 mmol of 2-hydroxy-3-methylbenzoic acid, in solution in 40 ml of ether, are added dropwise while maintaining a reflux for 4 hours. The mixture is then cooled on ice and 12.5 ml of isopropanol and then 7.5 ml of a saturated sodium chloride solution are added. After 10 hours at room temperature, the mixture is filtered, rinsed with 1N hydrochloric acid and extracted with ether. The product is then obtained after silica column purification, using as eluent a pentane/ethyl acetate mixture (7/3).

reactant | lithium aluminum hydride | 4.9 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-hydroxy-3-methylbenzoic acid | 3.3 mmol | OC1=C(C(=O)O)C=CC=C1C | C8H8O3
reactant | isopropanol | 12.5 ml | C(C)(C)O | C3H8O
reactant | sodium chloride | 7.5 ml | [Cl-].[Na+]
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 40 ml | CCOCC | C4H10O
product | 6-Methyl-2-hydroxymethylphenol | CC1=CC=CC(=C1O)CO | C8H10O2
